US08202873B2
3′-Chloro-4-(1,3-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine
To a solution of 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (3 g, 15.1 mmol, 1 eq) and 1,3-dimethyl-1H-pyrazole-4-carbaldehyde (2.0 g, 16.6 mmol, 1.1 eq) in DCE (75 mL) add sodium triacetoxyborohydride (4.8 g, 22.6 mmol, 1.5 eq) and stir at room temperature over the weekend. Add 2 N sodium hydroxide (100 mL), separate the layers, extract the aqueous layer twice with DCM (75 mL), dry (magnesium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 0:100 to 10:90 methanol:DCM). Combine only the fractions which contain the main component and concentrate to give the title preparation as a viscous yellow oil (2.14 g, 46%). Combine all other fractions which contain main component plus impurities, concentrate then repeat the chromatography step to recover further material (1.6 g, 35%, total yield 81%). MS (ES): m/z=307.1 [M+H]+.

reactant | 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 15.1 mmol, 3 g, 1 eq | ClC=1C(=NC=CN1)N1CCNCC1 | C8H11ClN4
reactant | 1,3-dimethyl-1H-pyrazole-4-carbaldehyde | 16.6 mmol, 2.0 g, 1.1 eq | CN1N=C(C(=C1)C=O)C | C6H8N2O
reactant | sodium triacetoxyborohydride | 22.6 mmol, 4.8 g, 1.5 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 2 N, 100 mL | [OH-].[Na+]
solvent | DCE | 75 mL | ClCCCl | C2H4Cl2
product | 3′-Chloro-4-(1,3-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C(=NN(C1)C)C | C14H19ClN6
